US07102008B2
LDA (1.3 mL, 2.6 mmol) was added to a solution of methyl propionate (0.22 g, 2.6 mmol) in THF (5 mL) cooled to −78° C. under nitrogen atmosphere. The reaction was stirred for 30 min, and then 4-benzyloxy-benzaldehyde (0.50 g, 2.4 mmol) in THF (5 mL) was added. The reaction was stirred at −78° C. for 5 min, and then allowed to warm to room temperature and stirred overnight. The reaction was partitioned between ethyl acetate and 1N HCl. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated to give an oil. The product was purified by FCC on silica gel eluting ethyl acetate:hexane (15:85 to 25:75) gradient to give 3-(4-benzyloxy-phenyl)-3-hydroxy-2-methyl-propionic acid methyl ester (0.12 g, 16%) as an oil. MS found: (M+H)+=301.

reactant | LDA | 2.6 mmol, 1.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | methyl propionate | 2.6 mmol, 0.22 g | C(CC)(=O)OC | C4H8O2
reactant | 4-benzyloxy-benzaldehyde | 2.4 mmol, 0.50 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(4-benzyloxy-phenyl)-3-hydroxy-2-methyl-propionic acid methyl ester | 0.12 g, 16% | COC(C(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)C)=O | C18H20O4
